US06399643B1
b) 4-(3-Phenylureido)benzyl chloride
42 g (354 mmol) of thionyl chloride were added dropwise at 30° C. to a suspension of 42.8 g (177 mmol) of 4-(3-phenylureido)benzyl alcohol in 500 ml of dichloromethane. The mixture was subsequently stirred at 40° C. for 1 hour. After completion of the evolution of gas, the mixture was allowed to cool to room temperature. The precipitated product was filtered off with suction and washed with dichloromethane. Yield: 44.26 g (96%).

reactant | thionyl chloride | 354 mmol, 42 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(3-phenylureido)benzyl alcohol | 177 mmol, 42.8 g | C1(=CC=CC=C1)NC(NC1=CC=C(CO)C=C1)=O | C14H14N2O2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 4-(3-Phenylureido)benzyl chloride | C1(=CC=CC=C1)NC(NC1=CC=C(CCl)C=C1)=O | C14H13ClN2O
